US04566898
5-Chloro-2-Methylbenzenesulfonylchloride
5-Chloro-2-methylbenzeneamine (1002 g) was added over 0.5 hr. to a stirred mixture of 5.5 L of concentrated hydrochloric acid and 1.5 L of acetic acid precooled to 0°-5° C. The resulting suspension was stirred 0.5 hr. A solution of 530 g of sodium nitrite in 0.9 L H2O was added over 1.0 hr. while maintaining the temperature at 0°-5° C. When addition was complete, the mixture was stirred 1.0 hr. at 0°-5° C. The diazonium salt was added to a stirred mixture of 6.0 L of acetic acid, 1000 g of sulfur dioxide and 16.8 g of cuprous chloride while maintaining the temperature about 15° C. When addition of the diazonium salt was complete, the mixture was stirred several hours at about 15° C. then allowed to warm to ambient temperature and stirred overnight. The reaction mixture was poured into ice-water, and the aqueous mixture was extracted with 12 L of methylene chloride. The organic solution was washed twice with 6 L water followed twice with 4 L of saturated sodium bicarbonate solution. The organic solution was dried over magnesium sulfate, filtered and the solvent evaporated in vacuo to give 1279.9 g of the title compound as a black oil.

reactant | 5-Chloro-2-methylbenzeneamine | 1002 g | ClC=1C=CC(=C(C1)N)C | C7H8ClN
reactant | hydrochloric acid | 5.5 L | Cl | ClH
reactant | sodium nitrite | 530 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 1000 g | S(=O)=O | O2S
solvent | H2O | 0.9 L | O | H2O
solvent | acetic acid | 6.0 L | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.5 L | C(C)(=O)O | C2H4O2
product | 5-Chloro-2-Methylbenzenesulfonylchloride | 1279.9 g | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6Cl2O2S
